US05593983
To (2β,3α,5α)-21-chloro-3-hydroxy-2-(2,2-dimethyl-4-morpholinyl)pregnane-11,20-dione (3.1 g) was added a solution of methanesulfonic acid (615 mg) in methanol (63 ml) and then a solution of potassium thiocyanate (12.4 g) in water (32 ml). The resulting solution was stirred at room temperature for 24 h, poured into water and sodium carbonate was then added until the pH exceeded 9. The precipitated solid was filtered off, washed with water and dissolved in dichloromethane. This solution was dried over sodium sulfate and the solvent was removed under reduced pressure. The residue was chromatographed on silica gel and the purified product was crystallised from diethyl ether and then from methanol to give (2β,3α,5α)-3-hydroxy-2-(2,2-dimethyl-4-morpholinyl)-21-thiocyanatopregnane-11,20-dione (572 mg). m.p. 197°-198° C.; [α]D +99.3° (c 0.8).

reactant | (2β,3α,5α)-21-chloro-3-hydroxy-2-(2,2-dimethyl-4-morpholinyl)pregnane-11,20-dione | 3.1 g | ClCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H]([C@H](C[C@]4(C)[C@H]3C(C[C@]12C)=O)N1CC(OCC1)(C)C)O)=O | C27H42ClNO4
reactant | methanesulfonic acid | 615 mg | CS(=O)(=O)O | CH4O3S
reactant | potassium thiocyanate | 12.4 g | [S-]C#N.[K+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 63 ml | CO | CH4O
solvent | water | 32 ml | O | H2O
product | (2β,3α,5α)-3-hydroxy-2-(2,2-dimethyl-4-morpholinyl)-21-thiocyanatopregnane-11,20-dione | 572 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(CSC#N)=O)[C@]4(CC([C@@H]3[C@]2(C[C@@H]1N1CC(OCC1)(C)C)C)=O)C | C28H42N2O4S
